US04772596
11.95 g (0.05 mole) of 1-benzhydryl-3-hydroxyazetidine and 0.5 ml of triethylamine were dissolved in 50 ml of chloroform 6.3 g (0.075 mole) of diketene were then added dropwise to the solution, after which the reaction mixture was stirred for 10 hours at room temperature, and then water was added to it. The reaction mixture was then stirred for 30 minutes. At the end of this time, the chloroform layer was separated and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The concentrate was subjected to silica gel column chromatography, and 15.07 g (93%) of 1-benzhydryl-3-azetidinyl acetoacetate were obtained, as a pale yellow oil, from the fractions eluted with a 9:1 by volume mixture of toluene and ethyl acetate.

reactant | 1-benzhydryl-3-hydroxyazetidine | 0.05 mole, 11.95 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | chloroform | 0.075 mole, 50 ml, 6.3 g | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
product | 1-benzhydryl-3-azetidinyl acetoacetate | 15.07 g, 93% | C(CC(=O)C)(=O)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H21NO3
